Netlist to Test the Xyce Inductor Model
*********************************************************************
* Tier No.:  1                                               
* Description:   Inductor circuit netlist to test validity of
*                the Xyce inductor model. A small resistor 
*		 is placed in series with the inductor to prevent
*                the creation of an inductive loop.  However,
*                the inductor is essentially in parallel with the
*                input voltage source.   The inductor voltage will
*                match the input voltage (minus a small drop across
*                the resistor).  
* Input:  V1 5V pulse 
* Output: V(2) inductor voltage
* Circuit Elements: inductor, resistor
********************************************************************** 
I1 1 0 PULSE(0 5V 0 1MS 1MS 10MS 25MS)
L1 2 0 10mH
R1 1 2 0.001
.options timeint newbpstepping=0 reltol=1.0e-4
.TRAN 0.1MS 20MS
.PRINT TRAN V(1) V(2)
.END
